US06583141B1
) A solution of chloroacetylchloride (0.0089 mol) in CH2Cl2 (20 ml, dried over MgSO4) was added to a cooled solution of (±)-N-[4-(aminophenylmethyl)phenyl]-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxamide (0.0081 mol) and N-ethyl-N-(1-methylethyl)-2-propanamine (0.0093 mol) in CH2Cl2 (100 ml). The reaction mixture was stirred for one hour at 0° C. Water was added. The organic layer was separated, dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The residue (crude oil) was purified by short column chromatography over silica gel (eluent: CH2Cl2/CH3OH 98/2). The pure fractions were collected and the solvent was evaporated under reduced pressure. The residue was stirred in EtOAc. The precipitate was filtered off, washed with EtOAc, and dried, yielding 2.47 g (68%) of (±)-N-[4-[[(chloroacetyl)amino]phenylmethyl]phenyl]-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxamide. (compound 127)

reactant | chloroacetylchloride | 0.0089 mol | ClCC(=O)Cl | C2H2Cl2O
reactant | (±)-N-[4-(aminophenylmethyl)phenyl]-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxamide | 0.0081 mol | NC(C1=CC=C(C=C1)NC(=O)C1CC(=NO1)C=1C=NC=CC1)C1=CC=CC=C1 | C22H20N4O2
reactant | N-ethyl-N-(1-methylethyl)-2-propanamine | 0.0093 mol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (±)-N-[4-[[(chloroacetyl)amino]phenylmethyl]phenyl]-4,5-dihydro-3-(3-pyridinyl)-5-isoxazolecarboxamide | 2.47 g, 68% | ClCC(=O)NC(C1=CC=C(C=C1)NC(=O)C1CC(=NO1)C=1C=NC=CC1)C1=CC=CC=C1 | C24H21ClN4O3
